US06610711B2
Ethyl 3-(3-bromophenyl)-2-methyl-2-butenoate
To a suspension of potassium tert-butoxide (183.1 g, 1.63 mol) in toluene (1400 ml) under an atmosphere of nitrogen was slowly added triethyl 2-phosponopropionate (361.1 g, 1.52 mol) with ice cooling at such a rate that the internal temperature was maintained at approximately 20° C. The resultant yellow solution was stirred at room temperature for 3 h after which time it was cooled in an ice bath. To this cooled solution was added a solution of 3-bromoacetophenone (274.2 g, 1.38 mol) in toluene (400 ml) at such a rate that the internal temperature did not rise above 20 ° C. The resultant red-brown solution was then stirred at room temperature for 18 h. After this time, more potassium tert-butoxide (38.7 g, 0.34 mol) was added, and the resultant mixture was stirred at room temperature for an additional 20 h. The reaction was quenched by the cautious addition of water (2000 ml), and the layers were separated. The organic layer was washed with water (4×2000 ml), and was then concentrated in vacuo to give the crude product as a brown oil (344 g) which was distilled under reduced pressure to give the impure title compound (2:3 mixture of geometric isomers) as a colourless liquid (212 g) which was contaminated with small amounts of triethyl 2-phosphonopropionate and 3-bromoacetophenone. In the present synthetic route the impure title compound was taken forward into the next step without any further purification. However, purification, for example using flash chromatography eluting with 5% ethyl acetate in hexane, affords the analytically pure title compound as a clear colourless oil.

reactant | potassium tert-butoxide | 1.63 mol, 183.1 g | CC(C)([O-])C.[K+]
reactant | triethyl 2-phosponopropionate | 1.52 mol, 361.1 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 3-bromoacetophenone | 1.38 mol, 274.2 g | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | potassium tert-butoxide | 0.34 mol, 38.7 g | CC(C)([O-])C.[K+]
solvent | toluene | 1400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-(3-bromophenyl)-2-methyl-2-butenoate | 212 g | BrC=1C=C(C=CC1)C(=C(C(=O)OCC)C)C | C13H15BrO2
